US08633175B2
A solution of 3-bromoaniline (1.0 mL, 9.18 mmol) and chloroacetyl isocyanate (0.780 mL, 9.18 mmol) in dioxane (100 mL) was stirred at room temperature for 2 hr. Dioxane (50 mL) and DBU (3.40 mL, 23.0 mmol) were added and the solution stirred at room temperature for 16 hr. The solution was concentrated in vacuo and the residue taken up in EtOAc and H2O. The mixture was then acidified with 1N HCl, then the aqueous phase extracted with EtOAc. The combined organics were then washed with H2O and brine and dried over Na2SO4. The solution was concentrated in vacuo and the residue recrystallized from EtOAc/hexanes to give 1-(3-bromophenyl)-2,4-imidazolidinedione as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 4.42 (s, 2H), 7.24-7.30 (m, 2H), 7.50-7.52 (m, 1H), 7.87 (s, 1H), 11.27 (s, 1H).

reactant | 3-bromoaniline | 9.18 mmol, 1.0 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | chloroacetyl isocyanate | 9.18 mmol, 0.780 mL | ClCC(=O)N=C=O | C3H2ClNO2
reactant | DBU | 23.0 mmol, 3.40 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | Dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 1-(3-bromophenyl)-2,4-imidazolidinedione | BrC=1C=C(C=CC1)N1C(NC(C1)=O)=O | C9H7BrN2O2
